US07772246B2
Preparation of 5-bromo-3-(prop-1-en-2-yl)pyridin-2-amine (B-78-2)
A solution of 2-amino-5-bromo-3-iodopyridine B-78-1 (4.75 g, 15.9 mmol), isopropenylboronic acid pinacol ester (3.28 mL, 2.94 g, 17.5 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride dichloromethane complex (1:1) (295 mg, 0.403 mmol) in dimethylformamide (48 mL) was treated with 24 mL of 2.0 M aqueous sodium carbonate solution. The resulting biphasic mixture was stirred under argon in a 65° C. oil bath for 6 hours. After cooling to room temperature, the mixture was diluted with 200 mL ethyl acetate and 75 mL deionized water, then suction-filtered to remove some insoluble black precipitate. After separation, the aqueous layer was back-extracted with 100 mL ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to 5.87 g brown oil. The crude product was purified by silica gel chromatography (eluting with a 10-50% ethyl acetate in hexanes gradient), to give B-78-2 (2.5501 g, 75.3%) as a tan solid.

reactant | 2-amino-5-bromo-3-iodopyridine | 15.9 mmol, 4.75 g | NC1=NC=C(C=C1I)Br | C5H4BrIN2
reactant | isopropenylboronic acid pinacol ester | 17.5 mmol, 3.28 mL, 2.94 g | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
reactant | sodium carbonate | 2.0 M, 24 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 48 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3-(prop-1-en-2-yl)pyridin-2-amine | BrC=1C=C(C(=NC1)N)C(=C)C | C8H9BrN2
